US08211908B2
To a solution of 32 mg of (5-fluoro-2-methylpyridin-3-yl)methanol in 2 mL of dichloromethane, 80 mg of molecular sieves 3A and 40 mg of 4-methylmorpholine N-oxide were added, and the mixture was stirred at room temperature for 30 minutes. Thereto was added 6.0 mg of tetrapropyl ammonium perruthenate, and the mixture was stirred at room temperature for 1 hour 30 minutes. The insoluble substance was filtered off, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using an eluent of chloroform:methanol=100:1 to obtain 20 mg of 5-fluoro-2-methylnicotinaldehyde as a colorless oily substance.

reactant | (5-fluoro-2-methylpyridin-3-yl)methanol | 32 mg | FC=1C=C(C(=NC1)C)CO | C7H8FNO
reactant | 4-methylmorpholine N-oxide | 40 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | tetrapropyl ammonium perruthenate | 6.0 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 5-fluoro-2-methylnicotinaldehyde | 20 mg | FC=1C=NC(=C(C=O)C1)C | C7H6FNO
